US07585885B2
N-Methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid
Stir N-methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid methyl ester (100 mg, 0.314 mmol) in 1 N NaOH (0.5 mL) and methanol (0.5 mL) at room temperature for 3 days. Dilute the mixture with water (1 mL) and wash the aqueous solution with diethyl ether. Acidify with 1 N HCl (0.55 mL) and extract with ethyl acetate (3×2 mL). Concentrate the organic layers to give the title compound as a crude residue which is used in the next step without further purification.

reactant | N-methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid methyl ester | 0.314 mmol, 100 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N1C(CCC1)=O)=O | C17H22N2O4
solvent | NaOH | 1 N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | N-Methyl-5-(2-oxopyrrolidin-1-yl)-N-propyl-isophthalamic acid | CN(C(C=1C=C(C(=O)O)C=C(C1)N1C(CCC1)=O)=O)CCC | C16H20N2O4
